US08114874B2
3-(Imidazo[1,2-a]pyrazin-3-ylethynyl)-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from 3-ethynylimidazo[1,2-a]pyrazine and 3-iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide in a manner similar to that described for Example 1, The product was obtained as a solid: 533 m/z (M+H).

reactant | 3-ethynylimidazo[1,2-a]pyrazine | C(#C)C1=CN=C2N1C=CN=C2 | C8H5N3
reactant | 3-iodo-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | IC=1C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=CC1C | C21H23F3IN3O
product | 3-(Imidazo[1,2-a]pyrazin-3-ylethynyl)-4-methyl-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | N=1C=C(N2C1C=NC=C2)C#CC=2C=C(C(=O)NC1=CC(=C(C=C1)CN1CCN(CC1)C)C(F)(F)F)C=CC2C | C29H27F3N6O
